US09416111B2
To a solution of N-(3-bromo-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine (250 g, 753.01 mmol) in 1,4-dioxane (3 L) were added 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (225 g, 885.83 mmol), KOAc (225 g, 2.30 mol) and Pd(dppf)Cl2 (19 g, 25.23 mmol). The resulting solution was heated to reflux overnight. The solid was filtered and the filtrate was decolorized by passing through a silica gel column. The fractions were collected and concentrated in vacuo. This resulted in a portion of purified product and a portion of crude product. The crude product was decolorized again with active carbon to provide an additional aliquot of product. The two portions of purified product were combined to afford N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine as a white solid. MS ESI calc'd for C15H22BF3N3O2 [M+H]+ 380. found 380. 1H NMR (400 MHz, CDCl3) δ 8.61 (d, J=5.2, 1 H), 7.75 (s, 1H), 7.64 (s, 1H), 7.40-7.30 (m, 2H), 7.00 (d, J=5.2, 1 H), 2.39 (s, 3H), 1.35 (s, 12H).

reactant | N-(3-bromo-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine | 753.01 mmol, 250 g | BrC=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C12H9BrF3N3
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 885.83 mmol, 225 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 2.30 mol, 225 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 3 L | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 25.23 mmol, 19 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
